US07459562B2
B) 2-(4-(2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide
A solution of 2-(4-(2-amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetic acid (65 mg, 0.17 mmol) in anhydrous DMF (1.2 mL) was treated with PyBOP (125 mg, 0.24 mmol) and HOBt (32 mg, 0.24 mmol) followed by DIPEA (60 μL, 0.35 mmol) and NH4Cl (19 mg, 0.35 mmol). After stirring at room temperature for 20 min, the mixture was concentrated under vacuum and the residue partitioned between EtOAc and saturated aq. NaHCO3 solution. The EtOAc phase was washed with brine, dried (MgSO4) and concentrated in vacuo. The product was purified by flash column chromatography on SiO2 eluting with 0-8% MeOH/CH2Cl2 to give the title compound (40 mg, 62%) as an amber colored oil. 1H NMR (DMSO-d6) δ 8.23 (dd, 1H, J=10.7, 2.5 Hz), 8.05 (d, 1H, J=9.2 Hz), 7.93 (d, 1H, J=6.1 Hz), 7.42-7.32 (m, 2H), 7.33-7.25 (m, 4H), 6.92 (s, 1H), 6.25 (d, 1H, J=5.6 Hz), 5.64 (s, 2H), 3.36 (s, 2H); MS(ESI+): m/z 383.17 (M+H)+.

reactant | 2-(4-(2-amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetic acid | 0.17 mmol, 65 mg | NC1=NC=CC(=C1C1=CC=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C19H14FN3O5
reactant | PyBOP | 0.24 mmol, 125 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.24 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.35 mmol, 60 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 0.35 mmol, 19 mg | [NH4+].[Cl-]
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide | 40 mg, 62% | NC1=NC=CC(=C1C1=CC=C(C=C1)CC(=O)N)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C19H15FN4O4
